Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH2:9][CH2:10][CH:11]([N:12]2[C:13](=[O:14])[NH:15][CH2:16][C@H:17]2[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25]1.[CH3:26][N:27]=[C:28]=[O:29]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH2:9][CH2:10][CH:11]([N:12]2[C:13](=[O:14])[N:15]([C:28]([NH:27][CH3:26])=[O:29])[CH2:16][C@H:17]2[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25]1,[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH2:9][CH2:10][CH:11]([N:12]2[C:13](=[O:14])[NH:15][CH2:16][C@H:17]2[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25]1.[CH3:26][N:27]=[C:28]=[O:29]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH2:9][CH2:10][CH:11]([N:12]2[C:13](=[O:14])[N:15]([C:28]([NH:27][CH3:26])=[O:29])[CH2:16][C@H:17]2[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25]1,nucleophilic_attack_to_iso(thio)cyanate,"[(15, 28), ([28, 29], 29), (29, 15.1), ([15.1, 15], 15), (29, [29, 28]), ([28, 27], 27), (27, 29.1), ([29.1, 29], 29)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:19]([C@H:18]1[N:8]([C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7])[C@H:9]([c:10]2[cH:11][cH:12][cH:13][n:14][cH:15]2)[S:16][CH2:17]1)=[O:20].[NH2:21][c:22]1[n:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29](=[O:30])[NH:31][CH:32]3[CH2:33][CH2:34]3)[cH:35][cH:36]2)[cH:37][s:38]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH:9]([c:10]2[cH:11][cH:12][cH:13][n:14][cH:15]2)[S:16][CH2:17][CH:18]1[C:19](=[O:20])[NH:21][c:22]1[n:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29](=[O:30])[NH:31][CH:32]3[CH2:33][CH2:34]3)[cH:35][cH:36]2)[cH:37][s:38]1,[OH:101][C:19]([C@H:18]1[N:8]([C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7])[C@H:9]([c:10]2[cH:11][cH:12][cH:13][n:14][cH:15]2)[S:16][CH2:17]1)=[O:20].[NH2:21][c:22]1[n:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29](=[O:30])[NH:31][CH:32]3[CH2:33][CH2:34]3)[cH:35][cH:36]2)[cH:37][s:38]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:8]1[CH:9]([c:10]2[cH:11][cH:12][cH:13][n:14][cH:15]2)[S:16][CH2:17][CH:18]1[C:19](=[O:20])[NH:21][c:22]1[n:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29](=[O:30])[NH:31][CH:32]3[CH2:33][CH2:34]3)[cH:35][cH:36]2)[cH:37][s:38]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (21, 19), ([19, 20], 20), (303, 21.1), ([21.1, 21], 21), (20, [20, 19]), ([19, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][s:7][cH:8]1.[NH2:9][c:10]1[cH:11][c:12]([O:13][c:14]2[cH:15][cH:16][c:17]3[n:18][c:19]([NH:20][C:21](=[O:22])[CH:23]4[CH2:24][CH2:25]4)[s:26][c:27]3[n:28]2)[cH:29][cH:30][c:31]1[F:32]>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][s:7][cH:8]1)[NH:9][c:10]1[cH:11][c:12]([O:13][c:14]2[cH:15][cH:16][c:17]3[n:18][c:19]([NH:20][C:21](=[O:22])[CH:23]4[CH2:24][CH2:25]4)[s:26][c:27]3[n:28]2)[cH:29][cH:30][c:31]1[F:32],[NH2:9][c:10]1[cH:11][c:12]([O:13][c:14]2[cH:15][cH:16][c:17]3[n:18][c:19]([NH:20][C:21](=[O:22])[CH:23]4[CH2:24][CH2:25]4)[s:26][c:27]3[n:28]2)[cH:29][cH:30][c:31]1[F:32].[OH:101][C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][s:7][cH:8]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][s:7][cH:8]1)[NH:9][c:10]1[cH:11][c:12]([O:13][c:14]2[cH:15][cH:16][c:17]3[n:18][c:19]([NH:20][C:21](=[O:22])[CH:23]4[CH2:24][CH2:25]4)[s:26][c:27]3[n:28]2)[cH:29][cH:30][c:31]1[F:32],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (9, 1), ([1, 2], 2), (303, 9.1), ([9.1, 9], 9), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([OH:7])[cH:8][cH:9]1.[Cl:10][c:11]1[cH:12][cH:13][c:14]([CH:15]2[NH:16][CH2:17][CH2:18][c:19]3[s:20][cH:21][cH:22][c:23]32)[cH:24][cH:25]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([OH:7])[cH:8][cH:9]1)[N:16]1[CH:15]([c:14]2[cH:13][cH:12][c:11]([Cl:10])[cH:25][cH:24]2)[c:23]2[c:19]([s:20][cH:21][cH:22]2)[CH2:18][CH2:17]1,[Cl:10][c:11]1[cH:12][cH:13][c:14]([CH:15]2[NH:16][CH2:17][CH2:18][c:19]3[s:20][cH:21][cH:22][c:23]32)[cH:24][cH:25]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([OH:7])[cH:8][cH:9]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([OH:7])[cH:8][cH:9]1)[N:16]1[CH:15]([c:14]2[cH:13][cH:12][c:11]([Cl:10])[cH:25][cH:24]2)[c:23]2[c:19]([s:20][cH:21][cH:22]2)[CH2:18][CH2:17]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 2], 2), (303, 16.1), ([16.1, 16], 16), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
